* AO3401A P-channel MOSFET system-level model.
* CONNECTIONS: G S D
* Intended for slow power-path/load-sharing simulation, not switching-loss prediction.
.SUBCKT AO3401A G S D
ECTRL CTRL 0 S G 1
SDS S D CTRL 0 SWP
DBODY D S DBP
CGS G S 590p
CGD G D 55p
CDS D S 25p
.MODEL SWP SW(RON=0.070 ROFF=1e9 VT=0.90 VH=0.05)
.MODEL DBP D(IS=1e-10 N=1.05 RS=0.03 BV=30 IBV=100u CJO=80p)
.ENDS AO3401A
