* TPS63031 system-level behavioral model for KiCad/ngspice power-path simulations.
* Smooth 3.3 V regulation with finite output impedance.
* Input-power conversion is represented by simulation-harness proxy load I2.
* NOT suitable for switching ripple, loop stability or EMI analysis.
.SUBCKT TPS63031_SYS IN EN OUT GND
BDRIVE DRIVE GND V={3.3*min(max((V(EN,GND)-0.8)/0.25,0),1)*min(max((V(IN,GND)-1.6)/0.25,0),1)}
RREG DRIVE OUT 0.08
RLEAK OUT GND 10MEG
RIN IN GND 10MEG
.ENDS TPS63031_SYS

* Physical-pin wrapper: 1 VOUT 2 L2 3 PGND 4 L1 5 VIN 6 EN 7 PS/SYNC 8 VINA 9 GND 10 FB 11 EP
.SUBCKT TPS63031 VOUT L2 PGND L1 VIN EN PSSYNC VINA GND FB EP
XCORE VIN EN VOUT GND TPS63031_SYS
RPG PGND GND 1m
REP EP GND 1m
RVA VINA VIN 1m
RFB FB VOUT 1m
RL1 L1 VIN 10MEG
RL2 L2 VIN 10MEG
.ENDS TPS63031
