* MCP73831T-2ACI/OT system-level behavioral model for ngspice/KiCad
* Pins: 1 STAT, 2 VSS, 3 VBAT, 4 VDD, 5 PROG
* Models CC/CV behavior, reverse blocking, PROG-open shutdown and STAT state.
* Does NOT model thermal loop, exact preconditioning, timer-free termination latch,
* silicon switching detail, or temperature-dependent accuracy.
.SUBCKT MCP73831 STAT VSS VBAT VDD PROG
* Datasheet programming node is approximately 1 V while charging.
VPROG PROG_INT VSS 1.0
RPROG_SENSE PROG_INT PROG 1m
* Charge-current command: external R(PROG) current x1000. Taper starts near 4.05 V.
* Disable naturally when PROG return is open because I(VPROG) tends to zero.
BCHG VDD VBAT I={ (V(VDD,VSS)>V(VBAT,VSS)+0.08) ? min(0.5,1000*abs(I(VPROG)))*limit((4.20-V(VBAT,VSS))/0.15,0,1) : 0 }
* Small leakage paths aid convergence and approximate shutdown leakage.
RLEAKV VDD VSS 100Meg
RLEAKB VBAT VSS 100Meg
* STAT: low while appreciable charge current flows; otherwise high from VDD.
* Real MCP73831 is high-Z on shutdown/no battery; this simplified system model
* drives high when powered and not charging, which is sufficient for logic tests.
BSTAT STAT VSS V={ (V(VDD,VSS)>3.0) ? ((V(VBAT,VSS)<4.15 && abs(I(VPROG))>1u) ? 0.05 : V(VDD,VSS)-0.1) : 0 }
RSTAT STAT VSS 1Meg
.ENDS MCP73831
