* TPS63031 system-level behavioral model for topology/load-step simulations.
* This is intentionally NOT a switching-ripple model.
.SUBCKT TPS63031_SYS IN EN OUT GND
VREF REF GND 3.3
SOUT REF OUT EN GND SWREG
RLEAK OUT GND 10MEG
RIN IN GND 1MEG
.MODEL SWREG SW(RON=0.08 ROFF=1e9 VT=1.0 VH=0.05)
.ENDS TPS63031_SYS

* Physical-pin wrapper for KiCad symbol attachment.
* 1 VOUT 2 L2 3 PGND 4 L1 5 VIN 6 EN 7 PS/SYNC 8 VINA 9 GND 10 FB 11 EP
.SUBCKT TPS63031 VOUT L2 PGND L1 VIN EN PSSYNC VINA GND FB EP
XCORE VIN EN VOUT GND TPS63031_SYS
RPG PGND GND 1m
REP EP GND 1m
RVA VINA VIN 1m
RFB FB VOUT 1m
RL1 L1 VIN 10MEG
RL2 L2 VIN 10MEG
.ENDS TPS63031
