* TPS613222A fixed-5V system-level behavioral model for power-path simulation.
* Not a switching-ripple model.
.SUBCKT TPS613222A_SYS IN OUT GND
VREF REF GND 5.0
SOUT REF OUT IN GND SWREG
RLEAK OUT GND 10MEG
RIN IN GND 1MEG
.MODEL SWREG SW(RON=0.10 ROFF=1e9 VT=0.8 VH=0.05)
.ENDS TPS613222A_SYS

* Physical-pin wrapper: 1 VOUT, 2 SW/input-side switching node, 3 GND.
.SUBCKT TPS613222A VOUT SW GND
XCORE SW VOUT GND TPS613222A_SYS
.ENDS TPS613222A
