* AO3400 30V N-channel MOSFET
* User-supplied model selected over the two 'sonnet' variants.
* CONNECTIONS: G S D
.SUBCKT AO3400A G S D
M1  NINT G S S NMOS W=998956u L=1.0u
M2  S G S D PMOS W=998956u L=0.4u
R1  D NINT RTEMP 15E-3
CGS G S 225E-12
DBD S NINT DBD
.MODEL NMOS NMOS (LEVEL=3 TOX=2.5E-8 RS=2E-4 RD=0 NSUB=1.6E17
+ KP=3E-5 UO=600 THETA=0 VMAX=0 XJ=4E-7 KAPPA=1.1
+ ETA=0 TPG=1 IS=0 LD=0 CGSO=0 CGDO=0 CGBO=0 NFS=2E10 DELTA=0.1)
.MODEL PMOS PMOS (LEVEL=3 TOX=2.5E-8 NSUB=2.0E16 TPG=-1)
.MODEL DBD D (CJO=690E-12 VJ=0.6 M=0.3 RS=0.005 FC=0.5 IS=1E-11 TT=1.5E-8 N=1.0 BV=36 IBV=1E-4)
.MODEL RTEMP RES (TC1=6.5E-3 TC2=1E-6)
.ENDS AO3400A
