* User-provided AO3400 model variants, preserved for comparison only.
* CONNECTIONS: G S D
.SUBCKT AO3400_original 1 2 4
M1  3 1 2 2 NMOSO W=998956u L=1.0u
M2  2 1 2 4 PMOSO W=998956u L=0.4u
R1  4 3 RTO 15E-3
CGS 1 2 225E-12
DBD 2 3 DBDO
.MODEL NMOSO NMOS (LEVEL=3 TOX=2.5E-8 RS=2E-4 RD=0 NSUB=1.6E17 KP=3E-5 UO=600 THETA=0 VMAX=0 XJ=4E-7 KAPPA=1.1 ETA=0 TPG=1 IS=0 LD=0 CGSO=0 CGDO=0 CGBO=0 NFS=2E10 DELTA=0.1)
.MODEL PMOSO PMOS (LEVEL=3 TOX=2.5E-8 NSUB=2.0E16 TPG=-1)
.MODEL DBDO D (CJO=690E-12 VJ=0.6 M=0.3 RS=0.005 FC=0.5 IS=1E-11 TT=1.5E-8 N=1.0 BV=36 IBV=1E-4)
.MODEL RTO RES (TC1=6.5E-3 TC2=1E-6)
.ENDS AO3400_original

.SUBCKT AO3400_sonnet 1 2 4
M1  3 1 2 2 NMOSS W=998956u L=1.0u
M2  2 1 2 4 PMOSS W=998956u L=0.4u
R1  4 3 RTS 35E-3
CGS 1 2 145E-12
DBD 2 3 DBDS
.MODEL NMOSS NMOS (LEVEL=3 TOX=2.5E-8 RS=2E-4 RD=0 NSUB=1.6E17 KP=3E-5 UO=600 THETA=0.1 VMAX=5E5 XJ=4E-7 KAPPA=1.1 ETA=0.1 TPG=1 IS=0 LD=0 CGSO=0 CGDO=0 CGBO=0 NFS=2E10 DELTA=0.1)
.MODEL PMOSS PMOS (LEVEL=3 TOX=2.5E-8 NSUB=2.0E16 TPG=-1)
.MODEL DBDS D (CJO=690E-12 VJ=0.6 M=0.3 RS=0.005 FC=0.5 IS=1E-11 TT=1.5E-8 N=1.0 BV=36 IBV=1E-4)
.MODEL RTS RES (TC1=6.5E-3 TC2=1E-6)
.ENDS AO3400_sonnet

.SUBCKT AO3400_sonnet2 1 2 4
M1  3 1 2 2 NMOSS2 W=998956u L=1.0u
M2  2 1 2 4 PMOSS2 W=998956u L=0.4u
R1  4 3 RTS2 35E-3
CGS 1 2 145E-12
DBD 2 3 DBDS2
.MODEL NMOSS2 NMOS (LEVEL=3 TOX=2.5E-8 RS=2E-4 RD=0 NSUB=1.6E17 KP=3E-5 UO=600 THETA=0.1 VMAX=5E5 XJ=4E-7 KAPPA=1.1 ETA=0.1 TPG=1 IS=0 LD=0 CGSO=0 CGDO=0 CGBO=0 NFS=2E10 DELTA=0.1)
.MODEL PMOSS2 PMOS (LEVEL=3 TOX=2.5E-8 NSUB=2.0E16 TPG=-1)
.MODEL DBDS2 D (CJO=690E-12 VJ=0.6 M=0.3 RS=0.005 FC=0.5 IS=1E-11 TT=1.5E-8 N=1.0 BV=36 IBV=1E-4)
.MODEL RTS2 RES (TC1=6.5E-3 TC2=1E-6)
.ENDS AO3400_sonnet2
