* TPS613222A fixed-5V DC/system behavioral model for KiCad/ngspice.
* Smooth startup and finite output impedance. Not a switching-ripple/loop model.
.SUBCKT TPS613222A_SYS IN OUT GND
BDRIVE DRIVE GND V={5.0*min(max((V(IN,GND)-0.7)/0.30,0),1)}
RREG DRIVE OUT 0.10
RLEAK OUT GND 10MEG
RIN IN GND 10MEG
.ENDS TPS613222A_SYS

* Physical-pin wrapper: 1 VOUT, 2 SW/input-side switching node, 3 GND.
.SUBCKT TPS613222A VOUT SW GND
XCORE SW VOUT GND TPS613222A_SYS
.ENDS TPS613222A
